data/mechanism_extracts/Science/10.1126_science.adg2866_1.json
{"doi": "10.1126_science.adg2866_1", "journal": "Science", "is_review": false, "rxn_class_summary": "Enantioselective electrochemical cobalt-catalyzed aryl C-H activation enabling C-C, C-N, and C-O annulations of carboxylic amides and P-stereogenic phosphinamides with alkenes/alkynes, coupled to cathodic hydrogen evolution (HER).", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of cyclometalated Co(III) species (Co(III)-CPA1 intermediate, complex C1) to higher oxidation states (Co(IV)/Co(III)/Co(II) manifold), enabling oxidation-induced reductive elimination; cathode performs HER releasing H2 as the sole stoichiometric byproduct.", "key_intermediates": [{"name": "Cyclometalated Co(III) aryl complex C1 (C-H-activated Co(III)-CPA1)", "smiles": null, "role": "reactive"}, {"name": "Co(III)-CPA1 chiral phosphate-bound cobalt species (inner-sphere enantio-determining)", "smiles": null, "role": "reactive"}, {"name": "Higher-valent Co(IV) intermediate from anodic oxidation", "smiles": null, "role": "transient"}, {"name": "Alkene-inserted Co alkyl intermediate (post migratory insertion)", "smiles": null, "role": "transient"}, {"name": "Co(II) species (post reductive elimination, re-oxidized at anode)", "smiles": null, "role": "resting_state"}], "electron_flow": "Co(II)/Co(III) precatalyst with chiral phosphoric acid CPA1 performs enantioselective C-H metalation of the amide substrate to give cyclometalated Co(III)-C1; the anode oxidizes this Co(III) intermediate to Co(IV) (after alkene migratory insertion), triggering oxidation-induced C-N/C-O/C-C reductive elimination and releasing Co(II); protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Electron transfer (anodic oxidation of the Co intermediate) is rate-limiting; C-H cleavage is not rate-determining (kH/kD ≈ 1.0) and migratory insertion is relatively fast (no order dependence on maleimide).", "probe_reagents": [{"name": "Deuterated benzamide [D]5-1", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.0 from parallel reactions, indicating C-H cleavage is not rate-determining"}, {"name": "Isolated Co(III) complex C1", "smiles": null, "purpose": "intermediate_trap", "observation": "Stoichiometrically prepared, isolated, and fully characterized; electricity required for productive turnover to product, supporting oxidation-induced reductive elimination"}, {"name": "Variable maleimide concentration (kinetic order)", "smiles": null, "purpose": "other", "observation": "Logarithmic plot of initial rates showed no marked correlation with maleimide concentration; migratory insertion considered relatively fast"}, {"name": "Variable current (product formation monitoring)", "smiles": null, "purpose": "redox_probe", "observation": "Direct correlation between current and product formation rate; electron transfer identified as rate-determining factor"}, {"name": "Nonlinear effect study with scalemic CPA1", "smiles": null, "purpose": "other", "observation": "Linear relationship between ee of CPA1 and ee of product 3, ruling out self-association/multiligand catalysts; single chiral acid coordinates Co"}, {"name": "Silver carbonate (chemical oxidant control)", "smiles": "[Ag+].[Ag+].[O-]C(=O)[O-]", "purpose": "redox_probe", "observation": "Gave very low enantioselectivity, highlighting electrochemistry's role in enantiocontrol"}, {"name": "No-current control", "smiles": null, "purpose": "redox_probe", "observation": "No product formation in absence of electricity, confirming electrochemical requirement"}, {"name": "Headspace GC analysis", "smiles": null, "purpose": "other", "observation": "Molecular H2 detected, confirming HER as the cathodic half-reaction"}], "evidence_types_used": ["KIE", "stoichiometric_intermediate", "isolation_of_intermediate", "UV_vis", "kinetic_order", "DFT", "on/off_light_or_current", "other"], "evidence_strength": "strong", "notes": "Authors favor an inner-sphere mechanism in which CPA1 directly coordinates to cobalt (rather than outer-sphere enantioinduction), supported by linear NLE and HRMS/UV-vis detection of cobalt-CPA1 intermediates traversing a Co(III)/Co(IV)/Co(II) manifold. Cathode material can be replaced with stainless steel without loss of efficiency. Faradaic efficiency up to 89% on decagram scale. Natural sunlight can power the cell. DFT used primarily for atropostability (rotational barrier of axially chiral product 36) rather than core mechanism."}
